US06340757B1
To a solution in which 9.33 g of methyl 4-fluoro-3-oxopentanoate had been dissolved in 115 ml of methanol were successively added 36.5 g of a 28% sodium methoxide methanol solution and 9.84 g of formamidine acetate at room temperature, and the mixture was stirred at 40° C. for 12 hours. To the mixture was further added 0.66 g of formamidine acetate and after stirring the mixture at 50° C. for 2 hours, the mixture was cooled to 10° C. or lower. After cooling, a mixture of 9.51 g of conc. sulfuric acid and 8.5 g of water was added to the reaction mixture. After stirring the mixture at 50° C. for 30 minutes, insolubles were removed by filtration and the filtrate was quantitated by the liquid chromatography internal standard method. As a result, 7.99 g of 6-(1-fluoroethyl)-4-pyrimidone was found to be formed (yield: 89.2%). The filtrate was concentrated under reduced pressure and the concentrated solution was recrystallized from 40 ml of 2-propanol to obtain 5.82 g of 6-(1-fluoroethyl)-4-pyrimidone.

reactant | sodium methoxide methanol | CO.C[O-].[Na+]
reactant | formamidine acetate | 9.84 g | C(C)(=O)O.C(=N)N
reactant | formamidine acetate | 0.66 g | C(C)(=O)O.C(=N)N
reactant | sulfuric acid | 9.51 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 8.5 g | O | H2O
reactant | methyl 4-fluoro-3-oxopentanoate | 9.33 g | FC(C(CC(=O)OC)=O)C | C6H9FO3
solvent | methanol | 115 ml | CO | CH4O
product | 6-(1-fluoroethyl)-4-pyrimidone | 5.82 g, yield: 89.2% | FC(C)C1=CC(NC=N1)=O | C6H7FN2O
